US06251912B1
3-[4-(3-Bromo-phenylamino)-quinazolin-6-ylamino]-4-morpholin-4-yl-cyclobut-3-ene-1,2-dione
A mixture of 0.8 g of 3-[4-(3-Bromo-phenylamino)-quinazolin-6-ylamino]-4-ethoxy-cyclobut-3-ene-1,2-dione, 4 mL of morpholine, and 20 mL of ethanol was refluxed for 2 hr. The mixture was cooled to room temperature and the solid was collected and washed with ethanol and ether giving 0.69 g of 3-[4-(3-Bromo-phenylamino)-quinazolin-6-ylamino]-4-morpholin-4-yl-cyclobut-3-ene-1,2-dione as a yellow powder: mass spectrum (m/e): M+H 480.1, 482.1.

reactant | 3-[4-(3-Bromo-phenylamino)-quinazolin-6-ylamino]-4-ethoxy-cyclobut-3-ene-1,2-dione | 0.8 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC=1C(C(C1OCC)=O)=O | C20H15BrN4O3
reactant | morpholine | 4 mL | N1CCOCC1 | C4H9NO
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-[4-(3-Bromo-phenylamino)-quinazolin-6-ylamino]-4-morpholin-4-yl-cyclobut-3-ene-1,2-dione | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC=1C(C(C1N1CCOCC1)=O)=O | C22H18BrN5O3
